US07285563B2
To a suspension of 3-(1H-pyrazol-1-yl)-benzoic acid [see WO 00/21951] (104 g, 0.55 mol) in anhydrous benzene (500 ml) was added thionyl chloride (85 g, 0.715 mol) and DMF (0.5 ml). The mixture was heated at reflux for 3 hours, then evaporated under reduced pressure. The residue was dissolved in anhydrous THF (100 ml) and evaporated. The residue was dissolved in anhydrous acetone (600 ml), and treated with ammonium acetate (77 g, 1 mol). The mixture was heated at reflux for 12 hours, solvent was evaporated and the residue treated with cold water (2000 ml). The resulting precipitate was filtered, washed with cold water (200 ml) and recrystallised from absolute ethanol (600 ml) to give 3-(1H-pyrazol-1-yl)benzamide (82 g, 80%). A solution of this material (82 g, 0.44 mol) in THF was added dropwise to a solution of LiAlH4 (25 g, 0.66 mol) in anhydrous THF (800 ml). The mixture was heated at reflux for 4 hours, cooled and quenched by the sequential addition of water (25 ml), 15% aqueous NaOH (25 ml), and water (50 ml). The inorganic by-products were filtered off and washed several times with diethyl ether (overall volume 1000 ml). The combined filtrates were dried over Na2SO4, filtered and evaporated. The residue was dissolved in methanol (400 ml), the solution was treated with activated carbon (10 g), and the mixture was refluxed for 40 minutes, then filtered and evaporated. The residue was treated with 1N HCl in ether (1000 ml), and the precipitate formed was filtered, washed with ether and dried to give the title compound (53 g, 70%).

reactant | 3-(1H-pyrazol-1-yl)-benzoic acid | 0.55 mol, 104 g | N1(N=CC=C1)C=1C=C(C(=O)O)C=CC1 | C10H8N2O2
reactant | thionyl chloride | 0.715 mol, 85 g | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | ammonium acetate | 1 mol, 77 g | C(C)(=O)[O-].[NH4+]
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 3-(1H-pyrazol-1-yl)benzamide | 82 g, 80% | N1(N=CC=C1)C=1C=C(C(=O)N)C=CC1 | C10H9N3O
